US08383825B2
(S)-Ethyl [N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate
A solution ethyl {N-[(5-bromopyridin-3-yl)carbonyl]-S-phenylsulfonimidoyl}acetate (216 mg, 0.52 mmol) and 3-hydroxyphenylacetylene (0.052 mL, 0.79 mmol) in anhydrous DMF (3 mL) was treated with triethylamine (0.22 mL, 1.58 mmol). The reaction mixture was degassed (alternating vacuum and argon) and PdCl2(Ph3P)2 (36.9 mg, 0.052 mmol) and triphenylphosphine (3.4 mg, 0.013 mmol) were added. The reaction mixture was degassed (alternating vacuum and argon) and placed under an atmosphere of 1:3 Argon/hydrogen atmosphere. Copper(1+) iodide was added and the reaction mixture was heated at 60° C. for 50 min. The brown reaction mixture was partitioned between saturated aqueous NaHCO3 and EtOAc. The organic layer was collected and washed further with saturated aqueous NaHCO3 (1×), brine (1×), and dried over anhydrous Na2SO4. The residue was purified by chromatography (silica gel, 50:1 CHCl3:MeOH). The product containing fractions were concentrated to give the title compound as a light yellow solid (220 mg, 94%).

reactant | ethyl {N-[(5-bromopyridin-3-yl)carbonyl]-S-phenylsulfonimidoyl}acetate | 0.52 mmol, 216 mg | BrC=1C=C(C=NC1)C(=O)N=S(=O)(C1=CC=CC=C1)CC(=O)OCC | C16H15BrN2O4S
reactant | 3-hydroxyphenylacetylene | 0.79 mmol, 0.052 mL | OC=1C=C(C=CC1)C#C | C8H6O
reactant | triethylamine | 1.58 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | triphenylphosphine | 0.013 mmol, 3.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (S)-Ethyl [N-({5-[(3-hydroxyphenyl)ethynyl]pyridin-3-yl}carbonyl)-S-phenylsulfonimidoyl]acetate | 220 mg, 94% | OC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C(=O)N=[S@@](=O)(C1=CC=CC=C1)CC(=O)OCC | C24H20N2O5S
